US06025376
360 mg of (R)-(-)-5-(3-isobutenyloxy-4-methoxyphenyl)-5-methyl-2-oxazolidinone is dissolved in 10 ml of ethyl acetate and mixed with 50 mg of palladium/10% carbon. It is hydrogenated until hydrogen absorption is completed. After filtration on diatomaceous earth and concentration by evaporation in a vacuum, an oily residue is obtained. The crude product is purified by chromatography on a silica gel column, with a hexane-acetone mixture as eluant. 186 mg of (R)-(-)-5-(3-isobutyloxy-4-methoxyphenyl)-5-methyl-2-oxazolidinone, melting point 93.7° C., results. [α]D =-24.7°.

reactant | (R)-(-)-5-(3-isobutenyloxy-4-methoxyphenyl)-5-methyl-2-oxazolidinone | 360 mg | C(=C(C)C)OC=1C=C(C=CC1OC)[C@@]1(CNC(O1)=O)C | C15H19NO4
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 50 mg | [Pd] | Pd
product | (R)-(-)-5-(3-isobutyloxy-4-methoxyphenyl)-5-methyl-2-oxazolidinone | 186 mg | C(C(C)C)OC=1C=C(C=CC1OC)[C@@]1(CNC(O1)=O)C | C15H21NO4
